US04186135
According to the method described in Example 31, the 8-acetamino-1,4-benzodioxane-5-carboxylic acid was treated with isobutyl chloroformate and 1-ethyl-2-aminomethlpyrrolidine. N-(1-ethyl-2-pyrrolidylmethyl)-8-acetamino-1,4-benzodioxane-5-carboxamide was obtained. The structure was confirmed by nuclear magnetic resonance analysis.

reactant | 8-acetamino-1,4-benzodioxane-5-carboxylic acid | N(C(=O)C)C1=CC=C(C2=C1OCCO2)C(=O)O | C11H11NO5
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-ethyl-2-aminomethlpyrrolidine | C(C)N1C(CCC1)CN | C7H16N2
product | N-(1-ethyl-2-pyrrolidylmethyl)-8-acetamino-1,4-benzodioxane-5-carboxamide | C(C)N1C(CCC1)CNC(=O)C1=CC=C(C=2OCCOC21)NC(=O)C | C18H25N3O4
